US07598257B2
The crude product N-hydroxy-1-[2-(trimethylsilyl)ethoxy]methyl-1H-pyrrolo[2,3-b]pyridine-4-carboximidamide (0.06 gm, 0.0002 mol) was dissolved in pyridine (1.0 mL, 0.012 mol) and then 3-cyanobenzoyl chloride (0.040 g, 0.00024 mol) was added at rt. This mixture was stirred for 1 h and heated to 80° C. in an oil bath. After heating for 18 h the reaction was allowed to cool to rt and then diluted with ACN and concentrated in vacuo to give 3-[3-(1-[2-(trimethylsilyl)ethoxy]methyl-1H-pyrrolo[2,3-b]pyridin-4-yl)-1,2,4-oxadiazol-5-yl]benzonitrile 0.08 gm as an off white residue, LC/M S (M+H)+ 418.

reactant | N-hydroxy-1-[2-(trimethylsilyl)ethoxy]methyl-1H-pyrrolo[2,3-b]pyridine-4-carboximidamide | 0.0002 mol, 0.06 gm | ONC(=N)C=1C2=C(N=CC1)N(C=C2)COCC[Si](C)(C)C | C14H22N4O2Si
reactant | pyridine | 0.012 mol, 1.0 mL | N1=CC=CC=C1 | C5H5N
reactant | 3-cyanobenzoyl chloride | 0.00024 mol, 0.040 g | C(#N)C=1C=C(C(=O)Cl)C=CC1 | C8H4ClNO
solvent | ACN | C(C)#N | C2H3N
product | 3-[3-(1-[2-(trimethylsilyl)ethoxy]methyl-1H-pyrrolo[2,3-b]pyridin-4-yl)-1,2,4-oxadiazol-5-yl]benzonitrile | 0.08 gm | C[Si](CCOCN1C=CC=2C1=NC=CC2C2=NOC(=N2)C=2C=C(C#N)C=CC2)(C)C | C22H23N5O2Si
